Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Failure to thrive 
 
Major Surgical or Invasive Procedure:
___ line placement

 
History of Present Illness:
___ with Alzheimers disease, prostate cancer and metatastic lung 
CA on ___ O2, currently on ___ hospice being cared for by his  

wife, now with progressive weakness and poor appetite over the 
past 2 weeks.  
He had abdominal pain 2 weeks ago and workup included an EGD 
which revealed an antral mass thought to be a lipoma, a gastric 
polyp and duodenitis. Per his wife, he has had a gradual decline 
in functioning with inability to walk, bowel and bladder 
incontinence, lack of appetite, no intake of solid food during 
this interval. He has a liquid diet consisting of 
vegetable/fruit juice. During this time, he has had sleep 
disturbance with increasing insomnia and recently started having 
visual hallucinations. He also complains of RLE pain in his 
thigh and back of knee which wakes him up at night, its 
non-radiating, aggravated by movement and alleviated Asper cream 
and by hanging his extremity over the side of the bed. He was 
able to walk and perform his activities of daily living with 
some assistance at baseline. 1 week ago, his wife noticed that 
his urine was dark brown. He has not complained of pain during 
urination.  
He has lost 30lbs in the last ___ months but more in the past 2 
weeks due to decreased PO intake. His wife denies any sore 
throat, shortness of breath, chest pain, abdominal pain, nausea, 
diarrhea, constipation, BRBPR, melena, hematochezia or dysuria.  

His wife is increasingly unable to care for him at ___ and is 
concerned that his RLE pain may be due to metastases to bone. 
His PCP requests admission for evaluation of failure to thrive.  

 
ROS: per HPI, denies fever, chills, night sweats, headache, 
rhinorrhea, congestion.  

 
Past Medical History:
- Lung Cancer Stage IIa adenocarcinoma s/p resection in ___  
- Prostate Cancer s/p prostatectomy, robot assisted  
- Iron-deficiency anemia  
- angioectasias in the distal small bowel  
- Hyperlipidemia  
- Hypertension  
- Diabetes mellitus type II
- Dementia  
- COPD  
- OSA  
- GERD  
- Peptic Ulcers  
- Bilateral DJD  

 
Social History:
___
Family History:
Diabetes in his 2 sisters (deceased) and his daughter. Cancer in 
___ (deceased). ___ in all relatives per wife
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS - Temp 97.6F, BP 118/54 , HR 72, R 18, O2-sat 100% RA  
GENERAL - NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear 
(dentures out)  
NECK - supple, no thyromegaly, no JVD  
HEART - RRR, nl S1-S2, ___ systolic murmur at LSB, no radiation. 
 
LUNGS - CTAB, no r/rh/wh, resp unlabored  
ABDOMEN - NABS, soft/NT/ND, no masses, no rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs, 
PTs)  
SKIN - no rashes, healed scars on bilateral knees from past 
falls  
NEURO - awake, A&O to name not place or time, CNs II-XII grossly 
intact, muscle strength ___ throughout, sensation grossly 
intact throughout, DTRs 2+ and symmetric, FTN testing intact but 
very slow movement of RUE, gait not tested.  

DISCHARGE PHYSICAL EXAM:
VS - T ___ F, BP 131/58, HR 96 (range ___ - 100s over past 24 
hrs) RR 18, O2-sat 97% RA
GENERAL - NAD, in bed comfortable, pleasant, cooperative
HEENT - EOMI, moist mucous membranes 
NECK - supple 
HEART - RRR, nl S1-S2, III/VI systolic murmur RUSB  
LUNGS - decreased breath sounds L lung fields, good air movement 
in R lung, no accessory muscle use
ABDOMEN - hyperactive bowel sounds, soft/NT/ND, no masses or 
HSM, no rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
NEURO - awake, A&Ox1

 
Pertinent Results:
ADMISSION LABS:
___ 09:40PM BLOOD WBC-16.1*# RBC-3.81* Hgb-9.2* Hct-29.5* 
MCV-77* MCH-24.2* MCHC-31.3 RDW-20.1* Plt ___
___ 09:40PM BLOOD Neuts-85.4* Lymphs-8.1* Monos-4.8 Eos-1.5 
Baso-0.2
___ 09:40PM BLOOD ___ PTT-33.6 ___
___ 03:46AM BLOOD Ret Aut-0.8*
___ 09:40PM BLOOD Glucose-110* UreaN-43* Creat-2.3*# 
Na-129* K-8.7* Cl-100 HCO3-20* AnGap-18
___ 09:40PM BLOOD ALT-13 AST-13 CK(CPK)-41* AlkPhos-152* 
TotBili-0.3
___ 09:40PM BLOOD Albumin-3.9 Calcium-9.5 Phos-5.0*# Mg-1.9
___ 01:45AM BLOOD ___ pO2-26* pCO2-38 pH-7.21* 
calTCO2-16* Base XS--13
___ 01:45AM BLOOD Glucose-40* Lactate-1.0 Na-127* K-4.7 
Cl-113*
___ 09:40PM BLOOD TSH-3.5
___ 09:40PM BLOOD VitB___-___

Discharge labs:
___ 09:00AM BLOOD WBC-14.9* RBC-2.95* Hgb-7.1* Hct-23.3* 
MCV-79* MCH-24.1* MCHC-30.5* RDW-20.6* Plt ___
___ 03:46AM BLOOD Neuts-84.6* Lymphs-8.4* Monos-5.6 Eos-1.2 
Baso-0.2
___ 09:00AM BLOOD Glucose-124* UreaN-14 Creat-1.4* Na-136 
K-4.3 Cl-105 HCO3-20* AnGap-15
___ 09:00AM BLOOD Calcium-8.5 Phos-2.5* Mg-1.9

___ EKG:
us rhythm with borderline P-R interval prolongation. Left atrial 

abnormality. Probable left ventricular hypertrophy. Left axis 
deviation 
consistent with left anterior fascicular block. Intraventricular 
conduction delay. Possible prior underlying anterior septal 
myocardial infarction. Peaked T waves strongly suggestive of 
hyperkalemia. Delayed lateral precordial transition. Compared to 
the previous tracing of ___ axis is more leftward. R wave 
progression is slower and T wave peaking is new. Clinical 
correlation is suggested.  

___ CXR:
IMPRESSION:  Collapse of the remaining left lung with further 
elevation of a probably paralyzed left hemidiaphragm.  Further 
evaluation with CT would provide a better evaluation of the 
airways and for the etiology of lung collapse. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male enrolled in ___ hospice care 
with history of lung adenocarcinoma and prostate cancer, 
Alzheimer's dementia, presenting with subacute decline in 
functional status over the past 2 weeks, found to have acute 
kidney injury and hyperkalemia with EKG changes, transferred to 
the MICU for possible HD and monitoring. Patient's hyperkalemia 
was treated and he was transferred back to the medicine floor.  
On ___, he developed fever and was found to have possible 
pneumonia, so he was treated for HAP.  Patient has continued to 
improve throughout hospitalization.

ACTIVE ISSUES: 

# Hyperkalemia: Presented with ___ and increased oral potassium 
intake in form of orange juice at ___. He had also continued 
___ losartan despite being very dehydrated.  Found to have EKG 
changes with peaked T waves and PR prolongation. Treated with 
dextrose/insulin, calcium gluconate, kayexelate and 2L of IVF. 
Renal consulted and helped to manage the hyperkalemia. His 
potassium continued to improve and patient was treated with IVF 
and lasix.  Potassium was 4.3 on day of discahrge. 

# Pneumonia: Patinet with likely post-opstructive pneumonia.  
Treated with vanc/zosyn for 8 day course for hospital acquired 
pneumonia.  Fevers improved and patient continued to do well.  
PICC line was placed and patient will continue antibiotics at 
discahrge. 

# Diarrhea: Patient developed diarrhea on ___.  It was sent 
for c. diff, which was negative.  Patient remained afebrile with 
benign abdominal exam. HCT remained stable at his baseline.  It 
is most likely anti-biotic associated diarrhea. 

# Acute kidney injury: Presented with ___, creatinine of 2.3 on 
admission. Felt to be pre-renal in etiology, with additional 
insult ___ administration. Fractonal excretion of urea and 
sodium point toward pre-renal. Received IVF repletion, losartan 
was held, patient received IVF resuscitation and creatinine 
gradual improved. Creatinine 1.4 on discharge.  Patient should 
not be on ___ again. 

# Hyponatremia: Likey hypovolemic hyponatremia. Improved rapidly 
with fluid resuscitation.

# Lung CA/Prostate CA/Goals of Care: Patient coming in from ___ 
hospice, is DNR/DNI. Spoke to wife who would like patient to be 
treated for reversible conditions.  Patient's code status is 
DNR/DNI, but family expressed wish to continue medical care for 
reversible causes.  

CHRONIC/INACTIVE ISSUES:
# Anemia: Known iron deficiency anemia and likely anemia of 
chronic disease. Hct at baseline. Patient continued on PPI.  
Aspirin dose was decreased from 325 mg to 81 mg daily following 
discussion with PCP.  

# Hypertension: Amlodipine and losartan held during admission.  
With poor PO intake, patient does not likely need this 
aggressive regimen.  Can monitor blood pressure and consider 
restarting amlodipine 5 mg daily. 

#Alzheimer's: Continue memantine and donepizil.

#Hyperlipidemia: Continued atorvastatin.

#DM: Continued insulin.  Reduced dose as patient has reduced PO 
intake.

#GERD: continued omeprazole.

#COPD: continued tiotropium and fluticasone.

TRANSITIONAL ISSUES:
-Continue antibiotics for pneumonia. Course complete on ___ 
(8 day course)
-Check Chemistry on ___ to eval for hyperkalemia
-Currently holding antihypertensive medications.  Patient had 
not needed during hospitalization. If patient is hypertensive, 
can consider amlodipine 5 mg daily.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
hold for SBP<100 
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 20 mg PO DAILY 
4. Carvedilol 12.5 mg PO BID 
Hold for SBP<100/ HR<60 
5. Docusate Sodium 100 mg PO BID 
6. Donepezil 10 mg PO HS 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Fluticasone Propionate NASAL 1 SPRY NU BID 
9. Losartan Potassium 50 mg PO DAILY 
hold for SBP<100 
10. Memantine 10 mg PO BID 
11. Sertraline 100 mg PO DAILY 
12. MetFORMIN (Glucophage) 1000 mg PO BID 
13. Omeprazole 40 mg PO DAILY 
14. Tiotropium Bromide 1 CAP IH DAILY 
15. Glargine 8 Units Breakfast

 
Discharge Medications:
1. Atorvastatin 20 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Donepezil 10 mg PO HS 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 
6. Memantine 10 mg PO BID 
7. Sertraline 100 mg PO DAILY 
8. Tiotropium Bromide 1 CAP IH DAILY 
9. Piperacillin-Tazobactam 4.5 g IV Q8H 
10. Vancomycin 750 mg IV Q 12H 
11. Omeprazole 40 mg PO DAILY 
12. Glargine 4 Units Bedtime
Insulin SC Sliding Scale using REG Insulin
13. Aspirin 81 mg PO DAILY 
14. MetFORMIN (Glucophage) 1000 mg PO BID 
15. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: post-obstructive pneumonia, Acute renal failure, 
failure to thrive, metastatic lung cancer, metastatic prostate 
cancer

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
It was a pleasure to participate in your care Mr. ___.  You 
were admitted to the hospital because you were not doing well at 
___.  We found that your potassium was high.  You went to the 
ICU for the high potassium.  You also had fevers and a high 
white blood cell count and we found that you have pneumonia.  
You will be treated with an 8 day course of IV antibiotics.

Please make the following changes to your medications
1. STOP losartan
2. START vancomycin - you will take these medication until 
___
3. START zosyn - you will take these medications until ___
4. Decrease aspirin to 81 mg daily
5. STOP amlodipine
6. REDUCE glargine insulin and insulin sliding scale (please see 
attached sliding scale)

You will go to a rehab facility following discharge. 
 
Followup Instructions:
___